US08487093B2
Step 2: Allyl (4S)-4-hydroxy-L-prolinate—hydrochloride salt
Hydrochloric acid (4.2 M solution in dioxane, 5 mL, 21 mmol) was added to a solution of 2-allyl 1-tert-butyl (2S,4S)-4-hydroxypyrrolidine-1,2-dicarboxylate (1.05 g, 4.87 mmol) in dichloromethane (20 mL). The resulting mixture was stirred at room temperature for 4 hours then concentrated under vacuum to afford the title compound.

reactant | Hydrochloric acid | 21 mmol, 4.2 M, 5 mL | Cl | ClH
reactant | 2-allyl 1-tert-butyl (2S,4S)-4-hydroxypyrrolidine-1,2-dicarboxylate | 4.87 mmol, 1.05 g | O[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OCC=C | C13H21NO5
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Allyl (4S)-4-hydroxy-L-prolinate—hydrochloride salt | Cl.O[C@H]1C[C@H](NC1)C(=O)OCC=C | InChI=1S/C8H13NO3.ClH/c1-2-3-12-8(11)7-4-6(10)5-9-7;/h2,6-7,9-10H,1,3-5H2;1H/t6-,7-;/m0./s1
